US06777414B1
N-Cyclohexyl-3-[4-(3,3-diphenyl-1-propyl)piperazin-1-yl]-N-isopropyl-2-methylbenzamide
Step (d) of Example 1 was repeated, except that the compound prepared just above in step (c) was used instead of 3-[4-(3,3-diphenyl-1-propyl)piperazin-1-yl]-2-methylbenzoic acid and N-isopropylcyclohexylamine was used instead of N-methylbenzylamine. Thus, the title compound was prepared.

reactant | 3-[4-(3,3-diphenyl-1-propyl)piperazin-1-yl]-2-methylbenzoic acid | C1(=CC=CC=C1)C(CCN1CCN(CC1)C=1C(=C(C(=O)O)C=CC1)C)C1=CC=CC=C1 | C27H30N2O2
reactant | N-isopropylcyclohexylamine | C(C)(C)NC1CCCCC1 | C9H19N
product | N-Cyclohexyl-3-[4-(3,3-diphenyl-1-propyl)piperazin-1-yl]-N-isopropyl-2-methylbenzamide | C1(CCCCC1)N(C(C1=C(C(=CC=C1)N1CCN(CC1)CCC(C1=CC=CC=C1)C1=CC=CC=C1)C)=O)C(C)C | C36H47N3O
